US05478832
An aqueous solution (222 ml) containing 16.7 g (0.10 mol) of chloral hydrate was mixed with 243 g of sodium sulfate, an aqueous solution (56.0 ml) containing 10.0 g (93.3 mmol) of p-toluidine and 9.56 of concentrated hydrochloric acid and an aqueous solution (242 ml) containing 20.5 g (0.29 mol) of hydroxyamine hydrochloride in this order and the resulting mixture was heated under reflux with stirring for 30 minutes. After cooling to room temperature, the mixture was filtered with suction to collect the yellowish brown precipitate. The precipitate was dissolved in 500 ml of a 1.5N sodium hydroxide solution and neutralized with 2M hydrochloric acid. The resulting mixture was filtered and the filtrate was acidified with 2M hydrochloric acid. The thus precipitated isonitroso compound was collected by filtration and washed with iced water followed by drying. The dried product was added to 62 g of concentrated sulfuric acid which had been heated to 60° C. over 40 minutes and the mixture was further heated at 75° C. for 10 minutes. After cooling to room temperature, the resulting mixture was poured into 160 ml of iced water followed by filtration to obtain 10.0 g of 5-methylisatin. NMR (270 MHz, Acetone-d6): δ9.9 (bs, 1H); 6.9-7.5 (m, 3H); 2.3 (s, 3H)

reactant | chloral hydrate | 0.10 mol, 16.7 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 243 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | p-toluidine | 93.3 mmol, 10.0 g | NC1=CC=C(C=C1)C | C7H9N
reactant | hydrochloric acid | Cl | ClH
reactant | hydroxyamine hydrochloride | 0.29 mol, 20.5 g | Cl.ON
product | 5-methylisatin | 10.0 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
